US07319099B2
(c) 1-[2-Fluoro-4-(3,3,3-trifluoro-propane-1-sulfonyl)-phenyl]-piperazine
To 0.5 mmol 1,2-difluoro-4-(3,3,3-trifluoro-propane-1-sulfonyl)-benzene in 5 ml N,N-dimethylacetamide was added 1.5 mmol piperazine, and the mixture was heated at 80° C. for 90 min. The mixture was then concentrated in vacuo, and the residue was chromatographed on silica gel (eluant: methanol/dichloromethane gradient) to afford the title compound. MS (m/e): 341.2 (M+H+, 100%)

reactant | 1,2-difluoro-4-(3,3,3-trifluoro-propane-1-sulfonyl)-benzene | 0.5 mmol | FC1=C(C=C(C=C1)S(=O)(=O)CCC(F)(F)F)F | C9H7F5O2S
reactant | piperazine | 1.5 mmol | N1CCNCC1 | C4H10N2
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | 1-[2-Fluoro-4-(3,3,3-trifluoro-propane-1-sulfonyl)-phenyl]-piperazine | FC1=C(C=CC(=C1)S(=O)(=O)CCC(F)(F)F)N1CCNCC1 | C13H16F4N2O2S
